US07598423B2
Synthesis of N-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-[3-(1H-tetrazol-5-yl)-phenyl]-methyl}-acetamide
A mixture of 1-[4-(4-{amino-[3-(1H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone (80 mg, 0.175 mmol), acetyl chloride (15 μL, 0.211 mmol) and dichloromethane (1.5 mL) is stirred at room temperature. Pyridine (50 μL, 0.62 mmol) is added and the mixture is stirred at room temperature 24 hr. An additional portion of acetyl chloride (20 μL, 0.28 mmol) is added and the reaction is stirred an additional 24 hr. The reaction mixture is purified as is via reversed phase C18 preparative chromatography eluting with 4:6 acetonitrile:water (0.1% trifluoroacetic acid) to 8:2 acetonitrile:water (0.1% trifluoroacetic acid) to give the title compound (53 mg, 61%), as a white solid. 1H NMR (DMSO-d6) δ 12.85 (s, 1H), 8.92 (d, 1H), 8.03 (s, 1H), 7.92 (d, 1H), 7.80 (d, 1H), 7.36-7.61 (m, 6H), 6.73 (d, 1H), 6.23 (d, 1H), 5.25 (s, 2H), 2.59-2.62 (m, 5H), 1.97 (s, 3H), 1.46-1.53 (m, 2H), 0.88 (t, 3H). LCMS M−1=498.

reactant | 1-[4-(4-{amino-[3-(1H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone | 0.175 mmol, 80 mg | NC(C1=CC=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=C1)C1=CC(=CC=C1)C1=NN=NN1 | C26H27N5O3
reactant | acetyl chloride | 0.211 mmol, 15 μL | C(C)(=O)Cl | C2H3ClO
reactant | Pyridine | 0.62 mmol, 50 μL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.28 mmol, 20 μL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | N-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-[3-(1H-tetrazol-5-yl)-phenyl]-methyl}-acetamide | 53 mg, 61% | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(NC(C)=O)C2=CC(=CC=C2)C2=NN=NN2)C=C1)CCC)O | C28H29N5O4
